US04504484
5-pyrimidyl carboxylic acid, 1.9 gm, was added to 30 ml of methylene chloride. 2.4 gm of carbonyldimidazole was added to the system. The system was stirred at room temperature for 3 hours to form the 5-pyrimidyl carboxylic acid imidazolide.

reactant | 5-pyrimidyl carboxylic acid | N1=CN=CC(=C1)C(=O)O | C5H4N2O2
reactant | carbonyldimidazole | 2.4 gm | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 5-pyrimidyl carboxylic acid imidazolide | [N-]1C=NC=C1.N1=CN=CC(=C1)C(=O)O | InChI=1S/C5H4N2O2.C3H3N2/c8-5(9)4-1-6-3-7-2-4;1-2-5-3-4-1/h1-3H,(H,8,9);1-3H/q;-1
